US08022209B2
To a flask fitted with a condenser was added 4,6-dichloro-pyrimidine (500 mg, 3.36 mmol), thiophene-2-boronic acid (429 mg, 3.36 mmol), Pd(OAc)2 (38 mg, 0.17 mmol), Ph3P (88 mg, 0.34 mmol), 1 M Na2CO3 (10.4 mL, 10.4 mmol), and DME (20 mL). The resulting mixture was heated at 100° C. for 18 h. After cooling, the resulting mixture was partitioned between CHCl3 (30 mL) and water (30 mL). The organic layer was dried and concentrated to yield a crude residue which was purified on SiO2 (0-30% EtOAc/hexanes) to yield 4-chloro-6-thiophen-2-yl-pyrimidine.

reactant | 4,6-dichloro-pyrimidine | 3.36 mmol, 500 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | thiophene-2-boronic acid | 3.36 mmol, 429 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | Ph3P | 0.34 mmol, 88 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Na2CO3 | 10.4 mmol, 1 M, 10.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(OAc)2 | 0.17 mmol, 38 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DME | 20 mL | COCCOC | C4H10O2
product | 4-chloro-6-thiophen-2-yl-pyrimidine | ClC1=NC=NC(=C1)C=1SC=CC1 | C8H5ClN2S
